US05977133
A sample of 2-(4-t-butoxy-5-fluoro-3-methyl-2-pyridinyl)cyclopropaneacetonitrile (5.21 g, 19.86 mmol) was dissolved in 50 mL of trifluoroacetic acid, the reaction was stirred under nitrogen for 1 hour at ambient temperature, and the material concentrated to dryness. The residue was dissolved in a mixture of 15.6 mL of DMF and 90 mL of methylene chloride. This solution was cooled in a water bath as 18.8 mL (19.86 mmol) of POCl3 was added, then the reaction was stirred at ambient temperature for 16 hours. The reaction was quenched by pouring it into ice water, and the mixture was extracted with methylene chloride. The aqueous solution was adjusted to pH7 with NaOH and re-extracted with methylene chloride. The extracts were combined and washed with water, dried over MgSO4 and concentrated. The residue was purified by flash chromatography with 1:4 ethyl acetate:hexane to give 3.26 g of 2-(4-chloro-5-fluoro-3-methyl-2-pyridinyl)cyclopropaneacetonitrile as a colorless liquid after removal of the solvents. MS 225, 227 (M+H)+ ; 1H NMR (CDCl3)∂: 0.48 (m, 1H), 0.59 (m, 1H), 0.66 (m, 1H), 0.77 (m, 1H), 1.50 (m, 1H), 2.48 (s, 3H), 3.80 (d, 1H, J=8 Hz), 8.39 (s, 1H). IR (neat) 2240, 1570, 1460 cm-l.

reactant | 2-(4-t-butoxy-5-fluoro-3-methyl-2-pyridinyl)cyclopropaneacetonitrile | 19.86 mmol, 5.21 g | C(C)(C)(C)OC1=C(C(=NC=C1F)C1C(C1)CC#N)C | C15H19FN2O
reactant | POCl3 | 19.86 mmol, 18.8 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(4-chloro-5-fluoro-3-methyl-2-pyridinyl)cyclopropaneacetonitrile | 3.26 g | ClC1=C(C(=NC=C1F)C1C(C1)CC#N)C | C11H10ClFN2
